US04244957
Preparation of 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyric acid
38.80 g. of ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate and 50 ml. of 25% strength hydrochloric acid are warmed to 125° for 45 minutes. The cooled solution is adjusted to pH 5 with sodium acetate and extracted with chloroform. The organic extracts are dried over magnesium sulfate and evaporated in vacuo. The residue is recrystallized from chloroform/ether, whereupon 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyric acid, m.p. 115°, is obtained.

reactant | ethyl 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyrate | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)OCC | C15H19Cl2N3O3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 4-{[2-[(2,6-dichlorophenyl)imino]-1-imidazolidinyl]oxy}butyric acid | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCCCC(=O)O | C13H15Cl2N3O3
